US08106045B2
Diisopropyl azodicarboxylate (40% in toluene, 13.6 g, 26.9 mmol) was added to a solution of tert-butyl (2S)-2-(4-hydroxyphenyl)morpholine-4-carboxylate (5.0 g, 17.9 mmol), triphenylphosphine (7.1 g, 27.1 mmol) and 3-bromopropanol (3.75 g, 27.0 mmol) in tetrahydrofuran (100 ml) and the solution was stirred for 10 hours at room temperature. The mixture was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting 5-10% methanol in chloroform to furnish tert-butyl (2S)-2-(4-(3-bromopropyloxy)phenyl)morpholine-4-carboxylate (7.16 g, 100%) as a colorless oil.

reactant | Diisopropyl azodicarboxylate | 26.9 mmol, 13.6 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | tert-butyl (2S)-2-(4-hydroxyphenyl)morpholine-4-carboxylate | 17.9 mmol, 5.0 g | OC1=CC=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C15H21NO4
reactant | triphenylphosphine | 27.1 mmol, 7.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-bromopropanol | 27.0 mmol, 3.75 g | BrCCCO | C3H7BrO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | tert-butyl (2S)-2-(4-(3-bromopropyloxy)phenyl)morpholine-4-carboxylate | 7.16 g, 100% | BrCCCOC1=CC=C(C=C1)[C@H]1CN(CCO1)C(=O)OC(C)(C)C | C18H26BrNO4
